US06518423B1
To a solution of 6.7 g of 4-[1-(tert-butoxycarbonyl)-piperidin-4-yl]-3,3-dimethylbutyronitrile in 50 ml of tetrahydrofuran was added at room temperature 20 ml of conc. hydrochloric acid and the resulting mixture was stirred for 2 hours. Then the reaction mixture was concentrated under reduced pressure to thereby give crude 4-(piperidin-4-yl)-3,3-dimethylbutyronitrile hydrochloride. This crude product was dissolved in 100 ml of dichloromethane. After adding 10.5 g of anhydrous potassium carbonate and 3.3 ml of benzyl bromide, the reaction mixture was reacted at room temperature for 12 hours. After adding water, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 4.7 g of the title compound as a colorless oily substance.

reactant | 4-[1-(tert-butoxycarbonyl)-piperidin-4-yl]-3,3-dimethylbutyronitrile | 6.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CC#N)(C)C | C16H28N2O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(piperidin-4-yl)-3,3-dimethylbutyronitrile hydrochloride | Cl.N1CCC(CC1)CC(CC#N)(C)C | InChI=1S/C11H20N2.ClH/c1-11(2,5-6-12)9-10-3-7-13-8-4-10;/h10,13H,3-5,7-9H2,1-2H3;1H
